US05824802
21. Preparation of 1-Ethyl-4-(2-chloro-3-(6-ethyl-2-methoxymorpholin-4-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole (Compounds 84 and 85)
A solution of 1.08 g (2.35 mmol) of 1-ethyl-4-(2-chloro-3-(2-hydroxy-6-ethylmorpholin-4-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole in 5 mL of methanol was added with stirring to a solution of 20 mL of methanol pre-treated with 2 mL of acetyl chloride. After 1 hour, the mixture was diluted with dichloromethane and the resulting solution was washed with water and concentrated by evaporation under reduced pressure. The two component mixture residue obtained was separated and purified by preparative reverse-phase HPLC eluting with 1:1 acetonitrile/water containing 0.1 percent phosphoric acid. The fractions containing each of the two products were combined separately, concentrated by evaporation under reduced pressure and extracted with dichloromethane. The dichloromethane solutions were dried over sodium sulfate and concentrated by evaporation under reduced pressure to obtain the title compound as cis and trans isomers, both as syrups. There was 294 mg (27 percent of theory) of the more polar cis compound and 548 mg (49 percent of theory) of the less polar trans compound. These syrups were separately crystallized from ethanol to obtain the cis and trans isomers of the title compound as brown and off-white crystals, respectively.

reactant | 1-ethyl-4-(2-chloro-3-(2-hydroxy-6-ethylmorpholin-4-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole | 2.35 mmol, 1.08 g | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)N1CC(OC(C1)CC)O)Cl)=O | C19H24ClN3O6S
reactant | acetyl chloride | 2 mL | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 5 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | 1-Ethyl-4-(2-chloro-3-(6-ethyl-2-methoxymorpholin-4-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)N1CC(OC(C1)CC)OC)Cl)=O | C20H26ClN3O6S
